US08012998B2
a) 6-{(RS)-1-[(3RS,4SR)-1-Benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-propoxy}-nicotinonitrile
To a solution of (RS)-1-[(3RS,4SR)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-propan-1-ol (described herein above) (21.0 mg, 0.0576 mmol) and 6-chloro-nicotinonitrile (9.6 mg, 0.069 mmol) in 1 mL of DMF was added sodium hydride (60%, 10 mg, 0.25 mmol) at room temperature. The mixture was stirred over night and quenched by an addition of aq. ammonium chloride solution. The mixture was extracted with ethyl acetate and the separated organic layer was washed with water two times and brine subsequently. The organic phase was dried over anhydrous sodium sulfate and concentrated in vaccuo after filtration. The residue was purified by TLC (heptane/ethyl acetate 2:1) yielding the titled compound(19.6 mg, 73% yield) as a light yellow oil. ES-MS m/e: 466.1 (M+H+).

reactant | (RS)-1-[(3RS,4SR)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-propan-1-ol | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=C(C=C1)Cl)Cl)C(CC)O | C20H23Cl2NO
reactant | 6-chloro-nicotinonitrile | 0.069 mmol, 9.6 mg | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
reactant | sodium hydride | 0.25 mmol, 10 mg | [H-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 6-{(RS)-1-[(3RS,4SR)-1-Benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-propoxy}-nicotinonitrile | 19.6 mg, 73% yield | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=C(C=C1)Cl)Cl)C(CC)OC1=NC=C(C#N)C=C1 | C26H25Cl2N3O
